US07713994B2
Following the acetylation and desilylation procedure employed for the preparation of (2E)-N-[2-hydroxy-4-({[(Z)-(6-iodo-1,3-dioxo-2,3-dihydroisoquinolin-4(1H)-ylidene)methyl]aminomethyl)phenyl]-2-methylbut-2-enamide, (4Z)-4-[({4-amino-3-[(triisopropylsilyl)oxy]benzyl}amino)methylene]-6-iodoisoquinoline-1,3(2H,4H)-dione (65 mg, 0.11 mmol) is reacted with acid chloride derived from 2-butynoic acid (92 mg, 1.1 mmol). Following desilylation and precipitation, N-[2-hydroxy-4-({[(Z)-(6-iodo-1,3-dioxo-2,3-dihydroisoquinolin-4(1H)-ylidene)methyl]amino}methyl)phenyl]but-2-ynamide is obtained as a solid (20 mg, 36%).

reactant | (4Z)-4-[({4-amino-3-[(triisopropylsilyl)oxy]benzyl}amino)methylene]-6-iodoisoquinoline-1,3(2H,4H)-dione | 0.11 mmol, 65 mg | NC1=C(C=C(CN\C=C\2/C(NC(C3=CC=C(C=C23)I)=O)=O)C=C1)O[Si](C(C)C)(C(C)C)C(C)C | C26H34IN3O3Si
reactant | 2-butynoic acid | 1.1 mmol, 92 mg | C(C#CC)(=O)O | C4H4O2
product | N-[2-hydroxy-4-({[(Z)-(6-iodo-1,3-dioxo-2,3-dihydroisoquinolin-4(1H)-ylidene)methyl]amino}methyl)phenyl]but-2-ynamide | OC1=C(C=CC(=C1)CN\C=C\1/C(NC(C2=CC=C(C=C12)I)=O)=O)NC(C#CC)=O | C21H16IN3O4
